US07528140B2
N-(2-{[2,2-dicyano-1-(1-methylpyrrol-2-yl)vinyl]amino}ethyl)(tert-butoxy)carboxamide was synthesized in the same manner using [methoxy(1-methylpyrrol-2-yl)methylene]methane-1,1-dicarbonitrile and tert-butyl N-(2-aminoethyl)carbamate. The ESI/MS data for this compound are shown below.

reactant | [methoxy(1-methylpyrrol-2-yl)methylene]methane-1,1-dicarbonitrile | COC(C=1N(C=CC1)C)=C(C#N)C#N | C10H9N3O
reactant | tert-butyl N-(2-aminoethyl)carbamate | NCCNC(OC(C)(C)C)=O | C7H16N2O2
product | N-(2-{[2,2-dicyano-1-(1-methylpyrrol-2-yl)vinyl]amino}ethyl)(tert-butoxy)carboxamide | C(#N)C(=C(C=1N(C=CC1)C)NCCNC(=O)OC(C)(C)C)C#N | C16H21N5O2
